US07622464B2
Description 49: (5-Methylcarbamoyl-[1,3,4]oxadiazol-2-ylmethyl)carbamic acid tert-butyl ester
Prepared in an analogous fashion to Description 35 from 5-[[[(1,1-dimethylethoxy)carbonyl]amino]methyl]-1,3,4-oxadiazole-2-carboxylic acid ethyl ester (prepared as described in JOC (1995), 60(10), 3112-20) (0.150 g) using 2.0M methylamine in THF.

reactant | 5-[[[(1,1-dimethylethoxy)carbonyl]amino]methyl]-1,3,4-oxadiazole-2-carboxylic acid ethyl ester | 0.150 g | C(C)OC(=O)C=1OC(=NN1)CNC(=O)OC(C)(C)C | C11H17N3O5
reactant | methylamine | 2.0M | CN | CH5N
solvent | THF | C1CCOC1 | C4H8O
product | (5-Methylcarbamoyl-[1,3,4]oxadiazol-2-ylmethyl)carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC=1OC(=NN1)C(NC)=O)=O | C10H16N4O4
